US08404896B2
To a 100 mL round bottom flask charged with 5-aminopicolinonitrile (285 mg, 2.44 mmol) at 0° C. was added HF-pyridine (5 mL) under N2. A pale brown solution was formed. In 4 aliquots, NaNO2 (250 mg, 3.62 mmol) was added with stirring. The solution turned green and a brown gas was liberated. After 20 min at 0° C., the solution was allowed to reach rt and stirred for an additional 20 min. A reflux condenser was attached and the reaction mixture was heated at 65° C. for 20 min then allowed to cool to rt. The orange slurry was quenched by the addition of crushed ice and the aqueous layer was extracted with DCM (3×10 mL). The combined organic portions were dried over Na2SO4, decanted and concentrated under reduced pressure to yield 5-fluoropicolinonitrile (152 mg, 52% yield) as a pale orange powder. LCMS: RT=0.63 min [M+H] 122.9 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm); HPLC: RT=0.99 min (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 4 minutes containing 0.2% PPA; 4 mL/min, monitoring at 220 nm, Purity 96%); NMR: 400 MHz 1H (CDCl3) ppm 8.52 (d, J=2.64 Hz, 1H), 7.70 (dd, J=4.4 and J=8.36 Hz, 1H), 7.50 (m, 1 H).

reactant | 5-aminopicolinonitrile | 2.44 mmol, 285 mg | NC=1C=CC(=NC1)C#N | C6H5N3
reactant | HF-pyridine | 5 mL | C1=CC=NC=C1.F
reactant | NaNO2 | 3.62 mmol, 250 mg | N(=O)[O-].[Na+]
product | 5-fluoropicolinonitrile | 152 mg, 52% yield | FC=1C=CC(=NC1)C#N | C6H3FN2
